US07919498B2
Prepared according to Procedure B using 8-chloro-2-(2-trifluoromethylphenyl) quinoline-3-carbaldehyde (1.10 g, 3.28 mmol) and sodium borohydride (0.186 g, 4.91 mmol, 1.5 eq) in THF (15 mL). (8-chloro-2-(2-trifluoromethylphenyl)quinolin-3-yl)methanol was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.57 (1 H, s), 8.10 (1 H, dd, J=7.9, 1.2 Hz), 7.94 (2 H, t, J=6.4 Hz), 7.82 (1 H, t, J=7.6 Hz), 7.76 (1 H, t, J=7.6 Hz), 7.50-7.68 (4 H, m), 5.54 (1H, t, J=5.2 Hz), 4.45 (1 H, br d), 4.28 (1 H, br d) Mass Spectrum (ESI) m/e=338.0 and 340.0 (M+1)

reactant | 8-chloro-2-(2-trifluoromethylphenyl) quinoline-3-carbaldehyde | 3.28 mmol, 1.10 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)C=O | C17H9ClF3NO
reactant | sodium borohydride | 4.91 mmol, 0.186 g, 1.5 eq | [BH4-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (8-chloro-2-(2-trifluoromethylphenyl)quinolin-3-yl)methanol | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)C(F)(F)F)CO | C17H11ClF3NO
